US03969506
2,3-Dihydro-10-benzyl-imidazo[2,1-b]quinazolin-5(10H)-one
A mixture of 12.7 g. of N-benzylisatoic anhydride, 5.8 g. of 2-methylmercapto-imidazoline and 2 pellets of sodium hydroxide in 200 ml. of dioxane was refluxed for 2 hours. While still hot, the mixture was then filtered through Celite and the filtrate concentrated to about 50 ml. volume. 50 ml. of diethyl ether was added and the crystalline precipitate removed by filtration. The residue was dissolved in methylene chloride, treated with charcoal, filtered through alumina, and the filtrate evaporated. The residue was crystallized from methylene chloride/diethyl ether to obtain the heading compound, m.p. 203°-205°C.

reactant | N-benzylisatoic anhydride | C(C1=CC=CC=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO3
reactant | 2-methylmercapto-imidazoline | CSC=1NCCN1 | C4H8N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,3-Dihydro-10-benzyl-imidazo[2,1-b]quinazolin-5(10H)-one | C(C1=CC=CC=C1)N1C=2N(C(C3=CC=CC=C13)=O)CCN2 | C17H15N3O
